US05412104
4-Amino-7-(Pyrrol-2-carbonyloxy)-8-Methyl-Benzopyran-2-one (Compound 70)
A solution of pyrrole-2-carboxylic acid chloride (0.065 gm) in methylene chloride (0.5 ml) was added to a suspension of 4-amino-7-hydroxy-8-methyl-benzopyran-2-one (0.095 gm) in pyridine (2 ml). The suspension was heated at 70 for 10 mins. to obtain a homogeneous solution. The reaction mixture was then diluted with water, filtered and the solid was crystallized form dimethylformamide/water to afford the title compound. MS: m/e 284 (M+).

reactant | pyrrole-2-carboxylic acid chloride | 0.065 gm | N1C(=CC=C1)C(=O)Cl | C5H4ClNO
reactant | 4-amino-7-hydroxy-8-methyl-benzopyran-2-one | 0.095 gm | NC1=CC(OC2=C1C=CC(=C2C)O)=O | C10H9NO3
solvent | methylene chloride | 0.5 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 4-Amino-7-(Pyrrol-2-carbonyloxy)-8-Methyl-Benzopyran-2-one | NC1=CC(OC2=C1C=CC(=C2C)OC(=O)C=2NC=CC2)=O | C15H12N2O4
